US05693635
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]phenyl]-2-chlorobenzamide
As described in Example 9, 0.471 g (1.5 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine is reacted with 0.315 g (1.8 mmol) of 2-chlorobenzoyl chloride in dichloromethane. The product is chromatographed on thick layer silica gel plates with hexane-ethyl acetate (1:1) as solvent to give a solid. Recrystallization from hexane-dichloromethane gives 100 mg of crystals, m.p. 110°-115° C. Anal. Calc'd for C28H21ClN2 O2 1/2 H2O: C,72.8; H,4.8; N,6.1; Cl,7.7. Found: C,72.6; H,4.5; N,5.8; Cl,8.7.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1.5 mmol, 0.471 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 2-chlorobenzoyl chloride | 1.8 mmol, 0.315 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]phenyl]-2-chlorobenzamide | 100 mg | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O | C28H21ClN2O2
